US07632838B2
1-[5-({(2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methylpiperazin-1-yl}sulfonyl)-2-thienyl]piperazin-2-one
Prepared by acid treatment (1N HCl in EtOAc) of tert-butyl 4-(5-((R)-4-(4-fluoro-2-(trifluoromethyl)phenyl)-2-methylpiperazin-1-ylsulfonyl)thiophen-2-yl)-3-oxopiperidine-1-carboxylate, as a white solid [tert-butyl 4-(5-((R)-4-(4-fluoro-2-(trifluoromethyl)phenyl)-2-methylpiperazin-1-ylsulfonyl)thiophen-2-yl)-3-oxopiperidine-1-carboxylate was prepared according to procedures similar to those described in Example 29FH from (R)-1-(5-bromothiophen-2-ylsulfonyl)-4-(4-fluoro-2-(trifluoromethyl)phenyl)-2-methylpiperazine (292 mg, 0.6 mmol), and tert-butyl 3-oxopiperazine-1-carboxylate (181 mg, 0.9 mmol) as a white solid (major product, 89.4 mg, 86%)]. HRMS: calcd for C20H22F4N4O3S2+H+, 507.11422. found (ESI-FTMS, [M+H]1+), 507.11461.

reactant | HCl | 1N | Cl | ClH
reactant | tert-butyl 4-(5-((R)-4-(4-fluoro-2-(trifluoromethyl)phenyl)-2-methylpiperazin-1-ylsulfonyl)thiophen-2-yl)-3-oxopiperidine-1-carboxylate | FC1=CC(=C(C=C1)N1C[C@H](N(CC1)S(=O)(=O)C1=CC=C(S1)C1C(CN(CC1)C(=O)OC(C)(C)C)=O)C)C(F)(F)F | C26H31F4N3O5S2
reactant | (R)-1-(5-bromothiophen-2-ylsulfonyl)-4-(4-fluoro-2-(trifluoromethyl)phenyl)-2-methylpiperazine | 0.6 mmol, 292 mg | BrC1=CC=C(S1)S(=O)(=O)N1[C@@H](CN(CC1)C1=C(C=C(C=C1)F)C(F)(F)F)C | C16H15BrF4N2O2S2
reactant | tert-butyl 3-oxopiperazine-1-carboxylate | 0.9 mmol, 181 mg | O=C1CN(CCN1)C(=O)OC(C)(C)C | C9H16N2O3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-[5-({(2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methylpiperazin-1-yl}sulfonyl)-2-thienyl]piperazin-2-one | FC1=CC(=C(C=C1)N1C[C@H](N(CC1)S(=O)(=O)C1=CC=C(S1)N1C(CNCC1)=O)C)C(F)(F)F | C20H22F4N4O3S2
